US08039463B2
LiOH.H2O (73 mg, 1.7 mmol) was added to a solution of N-biphenyl-4-yl-2-methyl-malonamic acid methyl ester (330 mg, 1.16 mmol) in a mixture of methanol (1.75 mL), THF (10 mL) and H2O (1 mL). The resulting mixture was stirred for 2 hours at ambient temperature then concentrated. The residue was diluted with water, acidified with conc. HCl. The resulting precipitate was isolated by filtration and dried to afford 260 mg (83%) of N-biphenyl-4-yl-2-methyl-malonamic acid.

reactant | LiOH.H2O | 1.7 mmol, 73 mg | O[Li].O
reactant | N-biphenyl-4-yl-2-methyl-malonamic acid methyl ester | 1.16 mmol, 330 mg | COC(C(C(=O)NC1=CC=C(C=C1)C1=CC=CC=C1)C)=O | C17H17NO3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | H2O | 1 mL | O | H2O
solvent | methanol | 1.75 mL | CO | CH4O
product | N-biphenyl-4-yl-2-methyl-malonamic acid | 260 mg, 83% | C1(=CC=C(C=C1)NC(C(C(=O)O)C)=O)C1=CC=CC=C1 | C16H15NO3
